US08420812B2
1-Benzyl-3-hept-1-ynyl-1H-indazole
This product was prepared from toluene-4-sulfonic acid 1-benzyl-1H-indazol-3-yl ester and 1-heptyne following the general procedure for the Sonogashira cross-coupling reaction described above. Chromatography eluent: heptane/DCM 1:1; yield (84 mg, 54%); 1H NMR δ (CDCl3): 7.9 (d, J=8.02 Hz, 1H), 7.4-7.19 (m, 8H), 5.5 (s, 2H), 2.48 (t, J=7.22 Hz, 2H), 1.65 (p, J=7.18 Hz, 2H), 1.5-1.32 (m, 4H), 0.94 (t, J=7.21 Hz, 3H); LCMS m/z: 302.

reactant | toluene-4-sulfonic acid 1-benzyl-1H-indazol-3-yl ester | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)OS(=O)(=O)C1=CC=C(C=C1)C | C21H18N2O3S
reactant | 1-heptyne | C#CCCCCC | C7H12
solvent | heptane DCM | CCCCCCC.C(Cl)Cl
product | 1-Benzyl-3-hept-1-ynyl-1H-indazole | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C#CCCCCC | C21H22N2
